US08530461B2
(S)-1-(1-{4-[3-(4-Ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-3-pyrimidin-4-yl-urea
0.03 mL (0.20 mmol) DBU and 0.033 g (0.20 mmol) CDT are added to 0.010 g (0.10 mmol) 4-aminopyrimidine in 1.0 mL 1,4-dioxane. The mixture is stirred for 5 min at rt followed by addition of 0.048 g (0.092 mmol) (S)-1-{4-[3-(4-ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethylamine (X.1) in 1.0 mL 1,4-dioxane. The mixture is stirred for 12 h at rt and subsequently concentrated in vacuo. The residue is purified by HPLC (XBridge, ACN/water (+0.1% NH4OH)) to yield the desired product.

reactant | DBU | 0.20 mmol, 0.03 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-aminopyrimidine | 0.10 mmol, 0.010 g | NC1=NC=NC=C1 | C4H5N3
reactant | (S)-1-{4-[3-(4-ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethylamine | 0.092 mmol, 0.048 g | C(C)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)N)C=C1 | C19H24N2O2
reactant | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(1-{4-[3-(4-Ethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-3-pyrimidin-4-yl-urea | C(C)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(=O)NC2=NC=NC=C2)C=C1 | C24H27N5O3
